US05028605
A solution of 1 g (3,6 mol) of 6,8-dibromoimidazo[1,2-a]pyrazine and 1 g (11.2 mmol) of morpholine in 15 ml of anhydrous ethanol is brought to reflux for 12 hours. After evaporation of the solvant and chromatography on an alumina column (eluant=CH2Cl2), 0.88 g (Yld=85%) of 6-bromo 8-morpholinoimidazo[1,2-a]pyrazine (m.p. 191° C.) is obtained.

reactant | 6,8-dibromoimidazo[1,2-a]pyrazine | 3,6 mol, 1 g | BrC=1N=C(C=2N(C1)C=CN2)Br | C6H3Br2N3
reactant | morpholine | 11.2 mmol, 1 g | N1CCOCC1 | C4H9NO
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 6-bromo 8-morpholinoimidazo[1,2-a]pyrazine | 0.88 g, 85% | BrC=1N=C(C=2N(C1)C=CN2)N2CCOCC2 | C10H11BrN4O
